US04581356
A solution of 1-methyl-2-oxo-6-propionyl-1,2,3,4-tetrahydroquinoline (20 g) and 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (20.9 g) in benzene (250 ml) was refluxed for 1 day. The mixture was filtered by suction and evaporated. The residue was chromatographed on silica gel (400 g) with a mixture of benzene and ethyl acetate (1:1) as an eluent. The eluates were concentrated to give an oil of 1-methyl-2-oxo-6-propionyl-1,2-dihydroquinoline (7.72 g).

reactant | 1-methyl-2-oxo-6-propionyl-1,2,3,4-tetrahydroquinoline | 20 g | CN1C(CCC2=CC(=CC=C12)C(CC)=O)=O | C13H15NO2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 20.9 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 1-methyl-2-oxo-6-propionyl-1,2-dihydroquinoline | 7.72 g | CN1C(C=CC2=CC(=CC=C12)C(CC)=O)=O | C13H13NO2
